US08614328B2
To a stirred suspension of 3-hydroxyphthalic acid dimethyl ester (1.3 g, 6.1 mmol) in acetone (25 mL) and potassium carbonate (2.5 g, 18 mmol) was added 1-bromomethyl-4-methanesulfonyl-benzene (1.6 g, 6.4 mmol) and refluxed overnight. The solvent was evaporated and the residue was partitioned between water (100 mL) and ethyl acetate (150 mL) and washed with water (2×100 mL). The combined organic phases was dried, concentrated and purified by flash column chromatography (EtOAc/Hexane) to give 3-(4-methanesulfonyl-benzyloxy)-phthalic acid dimethyl ester (2.4 g, 104% crude yield). The product was used in the next step without further purification.

reactant | 3-hydroxyphthalic acid dimethyl ester | 6.1 mmol, 1.3 g | COC(C=1C(C(=O)OC)=C(C=CC1)O)=O | C10H10O5
reactant | potassium carbonate | 18 mmol, 2.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromomethyl-4-methanesulfonyl-benzene | 6.4 mmol, 1.6 g | BrCC1=CC=C(C=C1)S(=O)(=O)C | C8H9BrO2S
solvent | acetone | 25 mL | CC(=O)C | C3H6O
product | 3-(4-methanesulfonyl-benzyloxy)-phthalic acid dimethyl ester | 2.4 g | COC(C=1C(C(=O)OC)=C(C=CC1)OCC1=CC=C(C=C1)S(=O)(=O)C)=O | C18H18O7S
